* Testcase 000847 — Full Analysis (sky130 tt corner)
* SKY130 model header — replaces the ideal level-1 .model cards
* Ships with the demo; the paths point at the local sky130 PDK checkout.
* NOTE: libs.tech/ngspice/all.spice sets ".option scale=1.0u", so every
* instance L/W below is written in microns WITHOUT a "u" suffix.
.param mc_mm_switch=0
.param mc_pr_switch=0
.include /home/idies/workspace/Temporary/xyu1/scratch/skywater-pdk-libs-sky130_fd_pr/models/corners/tt.spice
.include /home/idies/workspace/Temporary/xyu1/scratch/skywater-pdk-libs-sky130_fd_pr/models/r+c/res_typical__cap_typical.spice
.include /home/idies/workspace/Temporary/xyu1/scratch/skywater-pdk-libs-sky130_fd_pr/models/r+c/res_typical__cap_typical__lin.spice
.include /home/idies/workspace/Temporary/xyu1/scratch/skywater-pdk-libs-sky130_fd_pr/models/corners/tt/specialized_cells.spice
.model DIDEAL D   is=1e-14 n=1
.options reltol=1e-3 itl1=500 itl2=100

* Sources
VVDD VDD 0 1.8
VLABEL_NET_0 LABEL_NET_0 0 DC 0.9 AC 0.5

* Circuit
D1 N0 N1 DIDEAL
XM1 N1 LABEL_NET_0 N0 GND sky130_fd_pr__nfet_01v8 l=0.5 w=5
L1 VDD N1 10n

.control
set filetype=ascii

op
let power_dc = abs(i(VVDD)) * 1.8
print power_dc
let dc_voltage_10n = v(10n)
print dc_voltage_10n
let dc_voltage_N0 = v(N0)
print dc_voltage_N0
let dc_voltage_N1 = v(N1)
print dc_voltage_N1

quit
.endc

.end
